US05405829
5-Amino-1-(4-chloro-1-methyl-5-trifluoromethyl-3-pyrazolyl)-4-cyanopyrazole
1.4 g (6.5 mmole) 4-Chloro-3-hydrazino-1-methyl-5-trifluoromethylpyrazole and 0.81 g (6.5 mmole) ethoxymethylenemalononitrile in 20 ml ethanol were stirred for 10 hours at room temperature and for 2 hours at 50° C. After addition of 100 ml ethyl acetate, the mixture was washed with saturated sodium hydrogen carbonate, dried over sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (methylene chloride).

reactant | 4-Chloro-3-hydrazino-1-methyl-5-trifluoromethylpyrazole | 6.5 mmole, 1.4 g | ClC=1C(=NN(C1C(F)(F)F)C)NN | C5H6ClF3N4
reactant | ethoxymethylenemalononitrile | 6.5 mmole, 0.81 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Amino-1-(4-chloro-1-methyl-5-trifluoromethyl-3-pyrazolyl)-4-cyanopyrazole | NC1=C(C=NN1C1=NN(C(=C1Cl)C(F)(F)F)C)C#N | C9H6ClF3N6
